US07517873B2
To a mixture of 0.144 g (0.0005 mole) of 9-benzyl-2-chloro-5,7,8,9-tetrahydro-pyrimido[4,5-b][1,4]diazepin-6-one (VI-22), 1 mL of N,N-dimethylacetamide and 0.047 mL (0.00075 mole) of iodomethane at 0 degrees was added 0.03 g (0.00075 mole) of 60% sodium hydride in oil. The mixture was stirred at ambient temperature for 1 hour, then 20 mL of water was added. The precipitate was collected by filtration to give 0.134 g of 9-benzyl-2-chloro-5-methyl-5,7,8,9-tetrahydro-pyrimido[4,5-b][1,4]diazepin-6-one (VII-22) as an yellow solid.

reactant | 9-benzyl-2-chloro-5,7,8,9-tetrahydro-pyrimido[4,5-b][1,4]diazepin-6-one | 0.0005 mole, 0.144 g | C(C1=CC=CC=C1)N1C2=C(NC(CC1)=O)C=NC(=N2)Cl | C14H13ClN4O
reactant | N,N-dimethylacetamide | 1 mL | CN(C(C)=O)C | C4H9NO
reactant | iodomethane | 0.00075 mole, 0.047 mL | IC | CH3I
reactant | sodium hydride | 0.00075 mole, 0.03 g | [H-].[Na+]
solvent | water | 20 mL | O | H2O
product | 9-benzyl-2-chloro-5-methyl-5,7,8,9-tetrahydro-pyrimido[4,5-b][1,4]diazepin-6-one | 0.134 g | C(C1=CC=CC=C1)N1C2=C(N(C(CC1)=O)C)C=NC(=N2)Cl | C15H15ClN4O
